US06514968B1
2-[(9-Benzyl-9H-carbazol-4-yl)oxy]ethylamine
Sodium hydride (60% in oil; 0.934 g, 23.36 mmol) is washed three times with pentane. DMF (5 mL) is added, followed by 9-benzyl-9H-Carbazol-4-ol (1.52 g, 5.56 mmol) dissolved in DMF (10 mL) added over 10 min. The mixture is stirred an additional 5 min and then cooled in an ice-water bath. A solution of 2-chloroethylamine hydrochloride (1.29 g, 11.12 mmol) dissolved in DMF (5 mL) is added dropwise over about 5 min. The cooling bath is removed and the mixture is allowed to stir at room temperature over the weekend. Aq. sodium bicarbonate is added and the mixture partitioned between EtOAc, brine, and aq. sodium bicarbonate. The organic layers are dried over MgSO4 and taken to dryness. The residue is chromatographed on silica gel (120 mL) using CH3OH—CH2Cl2 (4/96) to give 1.26 g (72%) of the title compound as a white solid. An aliquot is crystallized from CH2Cl2-EtOAc-hexane; IR (drift) 1597, 1587, 1458, 1441, 1342, 1329, 1269, 1156, 1145, 1110, 1045, 860, 785, 749, 726 cm−1; 1H NMR (CDCl3) δ3.30, 4.29, 5.51, 6.70, 7.00, 7.12, 7.2-7.4, 8.34. Anal. Calcd for C21H20N2O: C, 79.72; H, 6.37; N, 8.85. Found: C, 78.70; H, 6.41; N, 8.70.

reactant | Sodium hydride | 23.36 mmol, 0.934 g | [H-].[Na+]
reactant | 9-benzyl-9H-Carbazol-4-ol | 5.56 mmol, 1.52 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)O | C19H15NO
reactant | 2-chloroethylamine hydrochloride | 11.12 mmol, 1.29 g | Cl.ClCCN
solvent | pentane | CCCCC | C5H12
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[(9-Benzyl-9H-carbazol-4-yl)oxy]ethylamine | 1.26 g, 72% | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)OCCN | C21H20N2O
